US06350762B1
516 mg (2.37 mmol) of 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 0.255 ml (2.70 mmol) of 3-pyridylaldehyde and 0.06 ml (0.61 mmol) of piperidine were heated under reflux in the presence of a catalytic amount of p-toluenesulfonic acid in 30 ml of benzene overnight while water was removed. Ethyl acetate was added to the reaction mixture. After washing with a saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 2-acetyl-3-(pyridine-3-yl)-N-(3-phenyl-2-propene-1-yl)acrylamide. 20 ml of 2-propanol and 365 mg (2.37 mmol) of 2-cyanoethyl 3-aminocrotonate were added to the product, and they were heated at 80° C. under stirring overnight. 2-Propanol was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (chloroform/methanol=50/1) to obtain the title compound.

reactant | 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 2.37 mmol, 516 mg | O=C(CC(=O)NCC=CC1=CC=CC=C1)C | C13H15NO2
reactant | piperidine | 0.61 mmol, 0.06 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-acetyl-3-(pyridine-3-yl)-N-(3-phenyl-2-propene-1-yl)acrylamide | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC=1C=NC=CC1 | C19H18N2O2
